US06878728B1
4-((2S,3R)-2-({[(3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino]-3-hydroxy-4-{isobutyl[(4-nitrophenyl)sulfonyl]amino}butyl)phenyl 4-nitrobenzenesulfonate (297)
To a solution of 4-((2S,3R)-2-[(tert-butoxycarbonyl)amino]-3-hydroxy-4-{isobutyl[(4-nitrophenyl)sulfonyl]-amino}butyl)phenyl 4-nitrobenzenesulfonate (0.21 mg, 0.29 mmol) in 10 mL of dichloromethane was added dropwise trifluoroacetic acid (2 mL). The mixture was stirred for 1 hour at room temperature. The solvents were removed under reduced pressure; the residue was redissolved in 50 mL of dichloromethane and 20 mL of 5% aqueous sodium carbonate was added. The aqueous phase was separated and extracted with dichloromethane (2×20 mL). The combined organic phases were dried over sodium carbonate, filtered, and concentrated under reduced pressure. The residue was redissolved in 10 mL of acetonitrile. N-Ethyldiisopropylamine (80 uL, 0.05 mmol) and (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl-4-nitrophenylcarbonate (0.11 g, 0.37 mmol) were added, and the solution was stirred for 12 hours. The solvents were removed under reduced pressure. The residue was redissolved in ethyl acetate (30 mL), and the organic phase was extracted with water (20 mL) followed by 5% aqueous sodium carbonate solution (5×20 mL). The organic phase was dried with sodium carbonate, filtered, and concentrated under reduced pressure. The residue was purified on silica gel using ethyl acetate-hexanes as eluent to provide 0.12 g (55%) of the title compound. 1H-NMR (CD3OD) δ 0.84 (3H,d), 0.90 (3H,d), 1.46 (1H,m), 1.58 (1H,m), 1.99 (1H,m), 2.47 (1H,t), 2.87-2.97 (2H,m), 3.04-3.10 (2H,m), 3.18 (1H,m), 3.44-3.47 (1H,dd), 3.62-3.68 (4H,m), 3.79 (1H,m), 3.89 (1H,q), 4.91 (1H,q), 5.57 (1H,d), 6.91 (2H,d), 7.20 (2H,d), 8.02-8.05 (4H,d+d), 8.36-8.42 (4H,d+d). MS: 778 (M−).

reactant | 4-((2S,3R)-2-[(tert-butoxycarbonyl)amino]-3-hydroxy-4-{isobutyl[(4-nitrophenyl)sulfonyl]-amino}butyl)phenyl 4-nitrobenzenesulfonate | 0.29 mmol, 0.21 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C[C@@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)O)NC(=O)OC(C)(C)C | C31H38N4O12S2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-Ethyldiisopropylamine | 0.05 mmol, 80 uL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-((2S,3R)-2-({[(3S,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino]-3-hydroxy-4-{isobutyl[(4-nitrophenyl)sulfonyl]amino}butyl)phenyl 4-nitrobenzenesulfonate | 0.12 g, 55% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C[C@@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)O)NC(=O)O[C@@H]1CO[C@H]2OCC[C@H]21 | C33H38N4O14S2
